### PR TITLE
[Merged by Bors] - feat(FieldTheory/RatFunc/AsPolynomial): Criterion for a RatFunc to be constant

### PR DESCRIPTION
**Pull request by justus-springer**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 1]
```diff
@@ -122,6 +122,14 @@ theorem denom_X : denom (X : RatFunc K) = 1 :=
 theorem X_ne_zero : (X : RatFunc K) ≠ 0 :=
   RatFunc.algebraMap_ne_zero Polynomial.X_ne_zero
 
+theorem eq_C_iff (f : RatFunc K) : (∃ c, f = C c) ↔
+    f.num.natDegree = 0 ∧ f.denom.natDegree = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: I think this is more readable as
```suggestion
theorem eq_C_iff (f : RatFunc K) :
    (∃ c, f = C c) ↔ f.num.natDegree = 0 ∧ f.denom.natDegree = 0 := by
```

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 2]
```diff
@@ -122,6 +122,14 @@ theorem denom_X : denom (X : RatFunc K) = 1 :=
...
+  refine ⟨by rintro ⟨c, rfl⟩; simp, ?_⟩
+  rw [Polynomial.natDegree_eq_zero, Polynomial.natDegree_eq_zero]
+  rintro ⟨⟨a, ha⟩, ⟨b, hb⟩⟩
+  use a / b
+  rw [←num_div_denom f, ←ha, ←hb, algebraMap_C, algebraMap_C, map_div₀]
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]:
```suggestion
  rw [← num_div_denom f, ← ha, ← hb, algebraMap_C, algebraMap_C, map_div₀]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer delegate

**Review by Vierkantor — APPROVED** [review]
Looks good to me with Ruben's suggestions! 🎉 

bors d+
